US07119200B2
3(R/S)-(tert-Butoxycarbonylaminomethyl)piperidine (3 g, 14.0 mmoles) was dissolved in anhydrous dichloromethane (50 mL) and trimethylsilylisocyanate (9.68 g, 11.4 mL, 84.0 mmoles) was added. The mixture was stirred under argon at 25° C. for 68 h. Additional trimethylsilylisocyanate (4.84 g, 5.7 mL, 42.0 mmoles) was added and the mixture was stirred at 25° C. for a total of 90 h. The mixture was evaporated to dryness and chromatographed on a silica gel column (30×5 cm) using 2% (10% conc. ammonium hydroxide in methanol)-dichloromethane as the eluant to give 3-(tert-butoxycarbonylaminomethyl)piperidine-1-carboxamide (3.05 g, 85%): FABMS: m/z 258.1 (MH+); HRFABMS: m/z 258.1816 (MH+). Calcd. for C12H24O3N3: m/z 258.1818; δH (CDCl3) 1.22 91H, m, CH2), 1.42 (9H, s, —COOC(CH3)3), 1.48 (1H, m, CH2), 1.67 (2H, m, CH2), 1.78 (1H, m, CH), 2.80 (1H, m, CH2), 2.99, 3H, m, CH2), 3.59 (1H, m, CH2O 3.69 (1H, m, CH2), 4.76 (2H, bm, CONH2) and 4.98 ppm (1H, bm, NH); δc (CDCl3) CH3: 28.5, 28.5, 28.5; CH2: 24.0, 28.3, 43.2, 45.1, 47.8; CH: 36.5; C: 79.4, 156.3, 158.5.

reactant | 3(R/S)-(tert-Butoxycarbonylaminomethyl)piperidine | 14.0 mmoles, 3 g | C(C)(C)(C)OC(=O)NCC1CNCCC1 | C11H22N2O2
reactant | trimethylsilylisocyanate | 84.0 mmoles, 11.4 mL, 9.68 g | C[Si](C)(C)N=C=O | C4H9NOSi
reactant | trimethylsilylisocyanate | 42.0 mmoles, 5.7 mL, 4.84 g | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3-(tert-butoxycarbonylaminomethyl)piperidine-1-carboxamide | 3.05 g, 85% | C(C)(C)(C)OC(=O)NCC1CN(CCC1)C(=O)N | C12H23N3O3
